* NMOS Id-Vd

* bind osdi to spice model
.model sg13_lv_pmos_test sg13g2_lv_pmos_psp
* load subckt wrapper
.include sg13g2_moslv_mod.lib

.option reltol=1e-4

vg 1 0 -1.2
vd 2 0 -1.2

X1 2 1 0 0 sg13_lv_pmos w=1.2u l=0.34u ng=4 rfmode=0

.control
pre_osdi sg13g2_moslv_paramset_openvaf_nolocalparam_instance.osdi
set wr_vecnames
set wr_singlescale
dc vd 0.0 -1.2 -0.02 vg -0.2 -1.2 -0.2
wrdata check/tb_moslv_pmos_id_vd_ng4.sp.out v(1) i(vd)
.endc

.end

